US04258185
A solution of 2.72 g of 4-oxo-4-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-yl)-3-methylbutanoic acid and 1.5 g of 2-hydrazinoethanol in 30 ml of ethanol was heated under reflux on a water bath for 2 hours. The reaction mixture was concentrated under reduced pressure and water was added to the residue. The precipitated crystals were filtered off and recrystallized from isopropanol to give 2.5 g of 6-[2-(2-hydroxyethyl)-5-methyl-3-oxo-2,3,4,5-tetrahydropyridazin-6-yl]-1-methyl-1,2,3,4-tetrahydroquinolin-2-one as colorless crystals, melting at 171°-173° C.

reactant | 4-oxo-4-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-yl)-3-methylbutanoic acid | 2.72 g | O=C(C(CC(=O)O)C)C=1C=C2CCC(N(C2=CC1)C)=O | C15H17NO4
reactant | 2-hydrazinoethanol | 1.5 g | N(N)CCO | C2H8N2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 6-[2-(2-hydroxyethyl)-5-methyl-3-oxo-2,3,4,5-tetrahydropyridazin-6-yl]-1-methyl-1,2,3,4-tetrahydroquinolin-2-one | 2.5 g | OCCN1N=C(C(CC1=O)C)C=1C=C2CCC(N(C2=CC1)C)=O | C17H21N3O3
